US07122546B2
3-[2-(6-Fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-4-propyl-pyridazine (Compound 43)
A mixture of 6-chloro-3-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-4-propyl-pyridazine (55.3 mg, 0.17 mmol), K2CO3 (30 mg) and Pd—C (10%, 6 mg) in ethanol is stirred at room temperature under H2 (H2 balloon) over night. After filtration, the solvent is removed and the residue is purified by PTLC to give the title compound. 1H NMR (CDCl3) 9.01 (d, 1H), 8.18 (dd, 1H), 7.26 (d, 1H), 7.15 (s, 1H), 7.10 (s, 1H), 6.82 (dd, 1H), 6.28 (s, 2H), 2.62 (t, 2H0, 1.47–1.60 (m, 2H), 0.83 (t, 3H).

reactant | 6-chloro-3-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-4-propyl-pyridazine | 0.17 mmol, 55.3 mg | ClC1=CC(=C(N=N1)CN1C(=NC=C1)C1=NC(=CC=C1)F)CCC | C16H15ClFN5
reactant | K2CO3 | 30 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd—C | 6 mg | [Pd] | Pd
product | 3-[2-(6-Fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-4-propyl-pyridazine | FC1=CC=CC(=N1)C=1N(C=CN1)CC=1N=NC=CC1CCC | C16H16FN5
